US06114548
Bis-trifluoromethanesulphonimide (70, 5 mg, 0.25 mmol) was stirred in hexane (4 ml) at room temperature. Benzaldehyde (510 μl, 5.0 mmol) and isoprene (750 μl, 7.5 mmol) were added and the mixture stirred at room temperature overnight. Water (5 ml) was added and the aqueous layer was extracted with hexane (3×3 ml). The combined organic layers were filtered through celite and analysed by glc. A yield of 42% of 4-methyl-6-phenyl-5,6-dihydropyran was observed.

reactant | Benzaldehyde | 5.0 mmol, 510 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | isoprene | 7.5 mmol, 750 μl | C=CC(C)=C | C5H8
reactant | Water | 5 ml | O | H2O
solvent | hexane | 4 ml | CCCCCC | C6H14
product | 4-methyl-6-phenyl-5,6-dihydropyran | yield of 42% | CC1=CCOC(C1)C1=CC=CC=C1 | C12H14O
